US04088773
N-(1-Methylpyrrol-2-yl)acetamide
1-Methyl-2-nitropyrrole (15.0 g, 0.1189 mol) in acetic anhydride (60 ml) and triethylamine (150 ml) was hydrogenated over platinum oxide (1.50 g) at room temperature and pressure. The reaction was halted when 3.3 equivalents of hydrogen had been taken up. The catalyst was filtered off and the filtrate evaporated in vacuo to leave a dark oil (18.1 g). This was chromatographed on a silica column using 10% ethyl acetate/ether as solvent to give a clear oil (8.7 g) which discoloured rapidly on exposure to light and/or air. This was then distilled under vacuum to give a colourless oil (7.20 g) (44%). b.p. (airbath) 130° C/0.15 mm. The mass spectrum showed a mass ion at 138 and infra-red and proton magnetic resonance spectra also supported the structure.

reactant | 1-Methyl-2-nitropyrrole | 0.1189 mol, 15.0 g | CN1C(=CC=C1)[N+](=O)[O-] | C5H6N2O2
reactant | hydrogen | 3.3 equivalents | [H][H] | H2
reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
catalyst | platinum oxide | 1.50 g | [Pt]=O
product | N-(1-Methylpyrrol-2-yl)acetamide | 18.1 g | CN1C(=CC=C1)NC(C)=O | C7H10N2O
